US07615651B2
Preparation of (3′-Carbamoyl-2-fluoro-biphenyl-4-ylmethyl)-(3-methyl-butyl)-ammonium chloride (E5-01)
[(3′-Carbamoyl-2-fluoro-biphenyl-4-ylmethyl)-(3-methyl-butyl)-carbamic acid tert-butyl ester (I-5d): 0.180 g, 0.434 mmol) was dissolved in dichloromethane (10 ml) and treated with 1 ml of a 4M hydrogen chloride solution in dioxane. After 1 hour, the reaction mixture was concentrated under reduced pressure to provide a solid that was titrated with hexanes to afford the title product (E5-01) after filtration.

reactant | (3′-Carbamoyl-2-fluoro-biphenyl-4-ylmethyl)-(3-methyl-butyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CCC(C)C)CC1=CC(=C(C=C1)C1=CC(=CC=C1)C(N)=O)F)=O | C24H31FN2O3
reactant | hydrogen chloride | 4M | Cl | ClH
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (3′-Carbamoyl-2-fluoro-biphenyl-4-ylmethyl)-(3-methyl-butyl)-ammonium chloride | [Cl-].C(N)(=O)C=1C=C(C=CC1)C1=C(C=C(C=C1)C[NH2+]CCC(C)C)F | InChI=1S/C19H23FN2O.ClH/c1-13(2)8-9-22-12-14-6-7-17(18(20)10-14)15-4-3-5-16(11-15)19(21)23;/h3-7,10-11,13,22H,8-9,12H2,1-2H3,(H2,21,23);1H
